US08975254B2
a) (R)-tert-Butyl 2-hydroxypropylcarbamate
Di-tert-butyl dicarbonate (10.17 g, 46.6 mmol) in DCM (30 ml) was added slowly to a solution of (R)-(−)-1-amino-2-propanol (3.67 ml, 46.6 mmol) in DCM (60 ml). After addition stirring was continued at RT overnight. The reaction mixture was then diluted with DCM (200 ml) and washed with water (2×100 ml). The organic layer was dried, filtered and evaporated to give the title compound. 1H NMR (400 MHz, CDCl3): 1.18 (31-1, d), 1.45 (9H, s), 2.47 (1H, broad s), 3.00 (1H, m), 3.26 (1H, m), 3.90 (1H, m), 4.96 (1H, broad s)

reactant | Di-tert-butyl dicarbonate | 46.6 mmol, 10.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-(−)-1-amino-2-propanol | 46.6 mmol, 3.67 ml | NC[C@@H](C)O | C3H9NO
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 2-hydroxypropylcarbamate | O[C@@H](CNC(OC(C)(C)C)=O)C | C8H17NO3
